US06762300B2
1) Synthesis of ethyl 5-(4-tert-butoxycarbonylpiperazin-1-yl)benzofuran-2-carboxylate
520 mg of 5-(4-tert-butoxycarbonylpiperazin-1-yl)-2-hydroxybenzaldehyde are added at 20° under nitrogen with stirring to 5 ml of NMP, and 0.25 g of potassium carbonate and 0.2 ml of ethyl bromoacetate are added to the solution. The mixture is stirred at 105° for 3 hours and then cooled to 25°. The batch is added to 30 ml of water (10°) with stirring, the aqueous phase is extracted at 10° with 3 times 30 ml of ethyl acetate, and the combined organic phases are washed with 30 ml of saturated NaCl solution and with 30 ml of water and then freed from solvent under reduced pressure (0.6 g of orange oil with crystal components). After chromatography on 30 g of silica gel (MTB ether/heptane 5:1), 0.45 g of pale-yellow crystals can be isolated (70%), m.p. 116-117°; MS 374 (M+), 318 (100%), 244, 232.

reactant | 5-(4-tert-butoxycarbonylpiperazin-1-yl)-2-hydroxybenzaldehyde | 520 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=CC(=C(C=O)C1)O | C16H22N2O4
reactant | NMP | 5 ml | CN1CCCC1=O | C5H9NO
reactant | potassium carbonate | 0.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.2 ml | BrCC(=O)OCC | C4H7BrO2
solvent | water | 30 ml | O | H2O
product | ethyl 5-(4-tert-butoxycarbonylpiperazin-1-yl)benzofuran-2-carboxylate | 0.45 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C20H26N2O5
